US06613942B1
1-[4-(5,5-Dimethyl-1,3-dioxan-2-yl)-1-naphthyl]-3-methyl-1-butanol (step B):
4-(5,5-dimethyl-1,3-dioxan-2-yl)-1-naphthaldehyde (4.0 g, 14.8 mmol) was dissolved in diethyl ether (80 mL). Magnesium bromide diethyl etherate (2.8 g, 10.8 mol) was added followed by a 2M solution of isobutyl magnesium chloride in diethyl ether (8.0 mL, 16 mmol). The mixture was stirred at room temperature for 16 hours, diluted with methanol (1 mL), water (1 mL), and 1 N HCl (20 mL). The phases were separated, and the aqueous phase was extracted with ether (3×50 mL). The combined organic extracts were dried (MgSO4), and concentrated. Flash chromatography of the residue provided the 1.76 g (36%) desired product.

reactant | 4-(5,5-dimethyl-1,3-dioxan-2-yl)-1-naphthaldehyde | 14.8 mmol, 4.0 g | CC1(COC(OC1)C1=CC=C(C2=CC=CC=C12)C=O)C | C17H18O3
reactant | Magnesium bromide diethyl etherate | 10.8 mol, 2.8 g | CCOCC.[Mg+2].[Br-].[Br-]
reactant | isobutyl magnesium chloride | C(C(C)C)[Mg]Cl
solvent | diethyl ether | 80 mL | C(C)OCC | C4H10O
solvent | methanol | 1 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
solvent | HCl | 1 N, 20 mL | Cl | ClH
solvent | diethyl ether | 16 mmol, 8.0 mL | C(C)OCC | C4H10O
product | 1-[4-(5,5-Dimethyl-1,3-dioxan-2-yl)-1-naphthyl]-3-methyl-1-butanol | 1.76 g, 36% | CC1(COC(OC1)C1=CC=C(C2=CC=CC=C12)C(CC(C)C)O)C | C21H28O3
